US06992067B2
a) 4-[5-(4-Fluorophenyl)-1-(4-fluorophenylamino)-5-hydroxy-2-(2-oxo-4-phenyl-oxazolidin-3-carbonyl)pentyl]benzonitrile (5)
Under argon, 2.5 g of 3-[5-(4-fluorophenyl)-5-hydroxypentanoyl]-4-phenyl-oxazolidin-2-one are dissolved in 30 ml of dichloromethane, 3.9 g of 4-[(4-fluoro-phenylimino)methyl]benzonitrile are added and the mixture is cooled to −10° C. 6.4 ml of diisopropylethylamine are added to this mixture and then, over a period of 3 min, 4.05 ml of trimethylsilyl chloride such that the temperature does not exceed −5° C. At this temperature, the mixture is stirred for another hour, and it is then cooled to −25° C. 0.8 ml of titanium tetrachloride is then added slowly. The dark mixture is stirred at −25 to −30° C. overnight and then decomposed using 35 ml of 7% strength tartaric acid solution, and stirring is continued at room temperature for 1 hour. 15 ml of a 20% strength sodium bicarbonate solution are then added, and the mixture is stirred for another hour. Following phase separation, the org. phase is washed with 30 ml of water, dried over magnesium sulfate and concentrated to about 10 ml. After addition of 2 ml of bistrimethylsilylacetamide, the mixture is heated at reflux for 30 min and then concentrated under reduced pressure. The residue is crystallized with ethyl acetate/heptane. The product is filtered off with suction and dried under reduced pressure. This gives 5 of molecular weight 653.81 (C37H37F2N3O4Si); MS (ESI+): 654.3 (M+H+), 582.2 (M+H+—Si(CH3)3).

reactant | 3-[5-(4-fluorophenyl)-5-hydroxypentanoyl]-4-phenyl-oxazolidin-2-one | 2.5 g | FC1=CC=C(C=C1)C(CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)O | C20H20FNO4
reactant | 4-[(4-fluoro-phenylimino)methyl]benzonitrile | 3.9 g | FC1=CC=C(C=C1)N=CC1=CC=C(C#N)C=C1 | C14H9FN2
reactant | diisopropylethylamine | 6.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyl chloride | 4.05 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.8 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-[5-(4-Fluorophenyl)-1-(4-fluorophenylamino)-5-hydroxy-2-(2-oxo-4-phenyl-oxazolidin-3-carbonyl)pentyl]benzonitrile | FC1=CC=C(C=C1)C(CCC(C(NC1=CC=C(C=C1)F)C1=CC=C(C#N)C=C1)C(=O)N1C(OCC1C1=CC=CC=C1)=O)O | C34H29F2N3O4
